US09255093B2
A solution of 2-(2,2-dibromovinyl)-5-methylphenyl acetate (16.5 g, 49.4 mmol) in 100 mL of MeOH was treated with a solution of K2CO3 (10.24 g, 74.1 mmol) dissolved in 5.0 mL of water and stirred at RT. The reaction mixture immediately turned yellow and cloudy. After 30 min the mixture was concentrated under reduced pressure to remove MeOH. The crude material was diluted with water and carefully adjusted to pH˜5-6 via addition of 2M HCl. The crude mixture was extracted with EtOAc×2, dried over MgSO4, filtered, and concentrated under reduced pressure to give an orange oil, 2-(2,2-dibromovinyl)-5-methylphenol (13.5 g). 1H NMR (400 MHz, DMSO-d6) δ 2.21 (s, 3H), 6.65 (d, J=8.2 Hz, 1H), 6.68 (s, 1H), 7.49 (d, J=7.9 Hz, 1H), 7.57 (s, 1H), 9.83 (s, 1H).

reactant | 2-(2,2-dibromovinyl)-5-methylphenyl acetate | 49.4 mmol, 16.5 g | C(C)(=O)OC1=C(C=CC(=C1)C)C=C(Br)Br | C11H10Br2O2
reactant | K2CO3 | 74.1 mmol, 10.24 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 100 mL | CO | CH4O
solvent | water | 5.0 mL | O | H2O
product | 2-(2,2-dibromovinyl)-5-methylphenol | 13.5 g | BrC(=CC1=C(C=C(C=C1)C)O)Br | C9H8Br2O
